US04428949
135 g (0.36 mole) of 3,3-bisfluoromethyl-1-bromo-1-(3-trifluoromethyl-phenoxy)-butan-2-one in 400 ml of acetone were added dropwise to 24.5 g (0.36 mole) of imidazole and 55.3 g (0.4 mole) of potassium carbonate in 400 ml of acetone. The mixture was stirred at 50° C. for 6 hours and was then concentrated by distilling off the solvent under a waterpump vacuum. The oily residue was taken up in 800 ml of methylene chloride, the mixture was washed twice with 2,000 ml of water each time, the organic phase was stirred with active charcoal, filtered and dried over sodium sulphate and the solvent was distilled off. The oily residue was distilled under a high vacuum. 63.4 g (48.8% of theory) of 3,3-bisfluoromethyl-1-(imidazol-1-yl)-1-(3-trifluoromethyl-phenoxy)-butan-2-one of boiling point 169°-73° C./0.1 mm Hg were obtained.

reactant | 3,3-bisfluoromethyl-1-bromo-1-(3-trifluoromethyl-phenoxy)-butan-2-one | 0.36 mole, 135 g | FCC(C(C(OC1=CC(=CC=C1)C(F)(F)F)Br)=O)(C)CF | C13H12BrF5O2
reactant | imidazole | 0.36 mole, 24.5 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.4 mole, 55.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 3,3-bisfluoromethyl-1-(imidazol-1-yl)-1-(3-trifluoromethyl-phenoxy)-butan-2-one | 63.4 g, 48.8% | FCC(C(C(OC1=CC(=CC=C1)C(F)(F)F)N1C=NC=C1)=O)(C)CF | C16H15F5N2O2
